US05986101
A1) Preparation of 2,2,6,6-Tetramethyl-4-(2,3-Epoxypropoxy)Piperidine
In a 750 ml sulfonating flask with mechanical stirrer, condenser and 100 ml dropping funnel 64.0 g (1.6 mol) of sodium hydroxide are dissolved in 64 ml of water under an argon atmosphere. 170 ml of toluene, 10.3 g (31.8 mmol) of tetrabutylammonium bromide and 50 g (318 mmol) of 4-hydroxy-2,2,6,6-tetramethylpiperidine are added. 58.8 g (636 mmol) of epichlorohydrin are added dropwise at 45° C. The mixture is then stirred at 50° C. for 4 hours. The reaction mixture is cooled to room temperature and then poured into 1 l of ice-water, the organic phase is separated off and dried over sodium sulfate, and the residue is concentrated on a rotatory evaporator. The residue is distilled at 8·10-3 torr. Boiling point: 48° C.

reactant | sodium hydroxide | 1.6 mol, 64.0 g | [OH-].[Na+]
reactant | toluene | 170 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 318 mmol, 50 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | epichlorohydrin | 636 mmol, 58.8 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | 64 ml | O | H2O
catalyst | tetrabutylammonium bromide | 31.8 mmol, 10.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2,2,6,6-Tetramethyl-4-(2,3-Epoxypropoxy)Piperidine | CC1(NC(CC(C1)OCC1CO1)(C)C)C | C12H23NO2
